Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base / Iodine / Iopamidol / Nitrofurantoin / 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Ciprofloxacin / 
Flagyl
 
Attending: ___.
 
Chief Complaint:
R leg pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is an ___ yo woman with PMHx sig. for giant cell 
arteritis on steroids and PVD with 7 stents in the RLE and 2 
stents in the LLE who presents from ___ with 
RLE ulcerations and worsening pain.  Patient was at rehab for 
recent hip fracture on ___.  She was hospitalized at ___ 
___, seen by Plastic Surgery there.  She was 
transferred to rehab on ___.  There she was noted to have 
multiple skin wounds on her R arm, L wrist, R leg, L thigh, all 
treated with bacitracin, xeroform, wrapped in Kling.  Patient 
has ___ pain wtih dressing changes.  She is followed by wound 
RNs, found to have extensive gangrenous changes of the skin wtih 
ulcerations along almost the entire R leg to mid-thigh, felt to 
require multiple surgical debridements of the necrotic tissue.  
She was given IV ativan 0.25 mg and IV dilaudid 1.75 mg and then 
became lethargic but arousable prior to ED presentation.  She 
has been afebrile.  She had a recent UTI, finished CTX on 
___.  She was sent to ___ for evaluation with Dr. ___.

In the ED, initial VS were: 98.4 70 154/51 18 100% 2L NC.  Labs 
were notable for WBC 11.1 (3% bands), HCT 25.7, K 5.5.  Vascular 
surgery was consulted, found b/l +dopplerable DP pulses, did not 
feel her PVD was the reason for her ulcerations.  She is being 
admitted to medicine for pain control and wound care.  
 
Review of Systems:   Pt denies fever, chills, headache, 
rhinorrhea or congestion, chest pain or tightness, palpitations, 
cough, shortness of breath, nausea, vomiting, diarrhea, 
constipation, abdominal pain, dysuria, urinary frequency. All 
other review of systems negative.  
 
Past Medical History:
Giant cell arteritis with PMR - steroid dependent
Secondary adrenal insufficiency from chronic steroids/Addison's 
disease
Peripheral arterial vascular disease
Moderate carotid artery stenosis
Type II DM with peripheral neuropathy and proteinuria, diet 
controlled
COPD
Osteoporosis
HTN
Coronary artery disease, s/p MI in ___
h/o thrombophlebitis
LBP
GERD c/b esopheal stricture
H/o lacunar CVA ___ incidentally seen on CT scan without deficit

PSH: 
Bilateral CIA and REIA stenting ___ revised ___
Pacemaker placement for CHB
Appy
TAH
 
Social History:
___
Family History:
Patiet is an orphan.  Daughter had a MI at ___ yo, breast cancer, 
and melenoma.
 
Physical Exam:
Vitals:  97.9, 102/61, 70, 17, 99 on 1L
Gen: NAD, alert, answers appropriately, not oriented to place or 
time  
HEENT: PERRL, MMM, thrush, sclera anicteric, not injected  
Neck: no LAD, no JVD, R side of neck very tender (per daughter, 
this is not new)  
Cardiovascular: RRR normal s1, s2, II/VI systolic murmur at LUSB 
 
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi  
Abd: normoactive bowel sounds, soft, non-tender, non distended 
Extremities:  R ___ with diffuse superficial ulceration and 
extreme tenderness; R hip surgical incision c/d/i   
NEURO: limited due to lack of cooperation, PERRL, face 
symmetric, no tongue deviation  
Integument: diffuse ecchymoses, skin tears, stage I sacral ulcer 
 
Psychiatric: appropriate, pleasant, not anxious
 
Pertinent Results:
___ 05:30PM BLOOD WBC-11.1* RBC-2.75* Hgb-8.9* Hct-25.7* 
MCV-94 MCH-32.4* MCHC-34.7 RDW-15.9* Plt ___
___ 05:32AM BLOOD WBC-18.3* RBC-3.00* Hgb-9.5* Hct-27.2* 
MCV-91 MCH-31.7 MCHC-34.9 RDW-16.1* Plt ___
___ 06:10AM BLOOD WBC-12.1* RBC-3.01* Hgb-9.4* Hct-28.3* 
MCV-94 MCH-31.1 MCHC-33.1 RDW-16.4* Plt ___
___ 05:30PM BLOOD Neuts-94* Bands-3 Lymphs-1* Monos-2 Eos-0 
Baso-0 ___ Myelos-0
.
___ 07:15AM BLOOD ESR-97*
___ 07:15AM BLOOD CRP-100.3*
___ 05:30PM BLOOD Glucose-107* UreaN-21* Creat-0.6 Na-134 
K-5.5* Cl-95* HCO3-26 AnGap-19
___ 05:12AM BLOOD ALT-10 AST-13 LD(LDH)-259* AlkPhos-118* 
TotBili-0.4
___ 05:08AM BLOOD Albumin-2.9*
___ 06:00PM BLOOD Glucose-107* Lactate-1.2 K-5.3
___ 11:52AM URINE RBC-<1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-<1 TransE-<1
___ 11:52AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
.
Blood culture (___): No growth to date.
Urine culture (___): No growth.
.
CXR: Right pectoral pacemaker. Moderate cardiomegaly without 
evidence of pulmonary edema. Tracheal deviation due to a thyroid 
nodule. No acute changes in the lung parenchyma. 
.
Right hip x-ray: Status post right hip hemiarthroplasty without 
hardware 
complication. 
.
Right knee x-ray: Bones are osteopenic. No erosive changes are 
identified to suggest osteomyelitis at this time. If there is 
clinical concern, MRI may be helpful for further assessment. No 
localizing information is given on the request to indicate the 
site of the ulcer about the knee. 
 
Brief Hospital Course:
___ yo F with giant cell arteritis, PMR on steroids, secondary 
addison's from chronic steroid use, CAD, HTN, DM2 and severe PVD 
with multiple lower extremity stents in the common iliac and 
right iliac arteries admitted with diffuse severe skin 
ulceration of multiple extremities and probable osteomyelitis 
involving the right lower extremity. 

The patient has a long history of skin integrity issues which 
are felt to be multifactorial associated with chronic steroid 
use and chronic PVD. It is unclear if her inflammatory 
conditions contribute to the skin problems. The distribution of 
ulcers is not consistent with simple pressure sores. After 
recent hip fracture requiring surgical repair and rehab stay, 
the patient was noted to have progressive severe, diffuse 
ulcerations involving the right lower extrmeity, left lower 
extremity and right upper extremity. On admission she had 
findings concerning for stage 4 ulceration diffusely in the 
right lower extremity with possible visualized bone or tendon. 
She was seen by vascular surgery consult who felt that with 
dopplerable pulses a primary vascular explanation was unlikely. 
General surgery recommended skin flap to aid in wound healing, 
however, the patient was not interested in surgical management 
as this was not consistent with her goals of care. Therefore, 
the patient was managed conservatively with daily wound care and 
dressing changes, optimization of nutritional status and empiric 
vancomycin for probable osteomyelitis 

The patient had signs of a systemic infectious process with 
rising WBC from admit of 11 to a peak of 18. She had an ESR of 
97 and CRP of 100.3. UA, urine culture and blood cultures are 
negative to date. CXR did not reveal a source of infection. 
There was high concern for either associated cellulitis or 
osteomyelitis given the deep ulcerations, most notable on the 
right lower extremity with possible visualized bone or tendon on 
admission. X-ray of the deepest, right knee ulceration did not 
show signs of osteo. She did not have a surgical scraping or 
sampling on admission and her skin healed enough to cover the 
deeper tissue and therefore no subsequent sample was taken. She 
was empirically started on vancomycin and will complete a 
planned 6 week course via ___ line.

The patient had severe pain with dressing changes. Initially she 
was started on long-acting pain medications with short acting 
breakthrough doses at the time of dressing changes. However, the 
patient had periods of delirium and somnolence. Therefore, she 
was taken off of long-acting pain medications and instead given 
scheduled pre-dressing change doses with good effect.

On CXR the patient was incidentally found to have signs of 
volume overload. She was started on standing daily lasix. It was 
difficult to assess I/O's due to incontinence however clinically 
she showed improvement in volume status and appeared euvolemic 
on discharge.

The patient has a history of anemia, probable anemia of chronic 
disease. Her Hct trended down during her hospitalization and she 
received 1 unit of PRBC's with a good Hct response.

Incidental findings:

Thyroid nodule, seen on chest x-ray with tracheal deviation. If 
no prior work-up and patient interested in diagnosis and 
treatment, could follow-up with thyroid ultrasound.

The remainder of the ___ medical issues including giant 
cell arteritis, PMR, PVD, secondary addison's, CAD, DM2, COPD, 
HTN were stable. The patient was continued on aspirin, coumadin, 
prednisone and the remainder of her home medication regimen.

The patient is DNR/DNI.
Contact:  Daughter/HCP ___ ___, 
___ 
 
Medications on Admission:
Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY
Metoprolol Tartrate 50 mg PO/NG BID 
Warfarin 
Albuterol 
Aspirin 325 mg PO/NG DAILY
Nexium 20 mg PO DAILY
OxycoDONE (Immediate Release)  5 mg PO/NG Q4H:PRN pain 
Dilaudid 1.5 mg IV daily before dressing changes
Ativan 0.5 mg IV daily before dressing changes
Calcium/Vitamin D/Multivitamins/Zinc 220 daily
PredniSONE 15 mg PO/NG DAILY 
Docusate Sodium 100 mg PO BID
Sertraline 50 mg PO/NG DAILY 
Ferrous Sulfate 325 mg PO/NG BID 
Senna 1 TAB PO/NG DAILY 
Fentanyl Patch 25 mcg/hr TP Q72H 
Simvastatin 20 mg PO/NG DAILY 
Gabapentin 300 mg PO/NG TID 
Tiotropium Bromide 1 CAP IH DAILY
Insulin SC
Lidocaine 5% Patch 1 PTCH TD DAILY 
 
Discharge Medications:
1. vancomycin 500 mg Recon Soln Sig: Five Hundred (500) mg 
Intravenous Q 24H (Every 24 Hours): Last dose ___

Needs weekly monitoring of: ALT/AST, Vancomycin trough level 
(goal trough ___, and renal function (creatinine) while on 
this therapy, please.  
2. prednisone 5 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
6. gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
7. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
8. sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
11. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
12. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO TID (3 times a day).  
13. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
14. senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
15. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
17. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
18. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
19. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation Q4H (every 4 hours) as 
needed for shortness of breath or wheezing.  
20. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
21. nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO TID 
(3 times a day).  
22. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
23. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
24. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
25. warfarin 1 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
26. alprazolam 0.25 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed for insomnia.  
27. alprazolam 0.25 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) as needed for anxiety/tremor.  
28. morphine 5 mg/mL Solution Sig: ___ mg Injection Q3H (every 3 
hours) as needed for pain.  
29. insulin glargine 100 unit/mL Solution Sig: Five (5) Units, 
insulin Subcutaneous at bedtime.  
30. insulin lispro 100 unit/mL Solution Sig: as per sliding 
scale Units Insulin Subcutaneous QACHS: see attached sliding 
scale.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Skin ulcers
Probable osteomyelitis
Giant cell arteritis
PMR
PVD
CAD
HTN
DM2
Secondary Addison's disease
COPD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
You were admitted with severe skin ulcerations. This also caused 
a likely infection of the bone called osteomyelitis. You must 
continue wound care and antibiotics for a total of 6 weeks.
 
Followup Instructions:
___